US07268152B2
Synthesis of 2-(2-chloro-4-hydroxymethylbenzyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol
To a chilled (0° C.) solution of 30 mg (0.069 mmol) of 3-chloro-4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzaldehyde in 1 mL THF was added 4 mg (0.104 mmol) lithium aluminum hydride in one portion. The reaction was warmed to room temperature. The reaction was monitored by TLC, cooled to 0° C., quenched with water, diluted with ethyl acetate, dried over magnesium sulfate, and filtered through diatomaceous earth filter agent. The filtrate was concentrated and chromatographed on silica gel eluting with hexanes-ethyl acetate (97:3 to 8:2) to afford 26.5 mg (88%) of the title compound as an oil.

reactant | 3-chloro-4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzaldehyde | 0.069 mmol, 30 mg | ClC=1C=C(C=O)C=CC1CC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O | C21H21ClF4O3
reactant | lithium aluminum hydride | 0.104 mmol, 4 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(2-chloro-4-hydroxymethylbenzyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol | 26.5 mg, 88% | ClC1=C(CC(C(F)(F)F)(CC(C)(C)C2=C(C=CC(=C2)F)OC)O)C=CC(=C1)CO | C21H23ClF4O3
